US04298739
2.6 Grams of 6-(3-carboxy-2-methylpropoxy)-carbostyril and 1.4 g of potassium carbonate are added to 50 ml of dimethylformamide, followed by dropwise addition of 1.1 ml of isobutyl chloroformate under external ice cooling and agitation while maintaining the internal temperature at 10° to 20° C. After this dropwise addition, the mixture is agitated at 30° to 40° C. for 2 hours and then added with 1.6 ml of N-methyl-2-methylcyclohexylamine, followed by additional 2-hour agitation at the same temperature. The reaction solution is poured into 200 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The obtained crude crystals are recrystallized from benzene-ligroin to obtain 0.9 g of 6-{3-[N-methyl-N-(2-methylcyclohexyl)-aminocarbonyl]-2-methylpropoxy}carbostyril in the form of colorless needle-like crystals. m.p., 146°-149° C.

reactant | 6-(3-carboxy-2-methylpropoxy)-carbostyril | C(=O)(O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C | C14H15NO4
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl chloroformate | 1.1 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl-2-methylcyclohexylamine | 1.6 ml | CNC1C(CCCC1)C | C8H17N
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-{3-[N-methyl-N-(2-methylcyclohexyl)-aminocarbonyl]-2-methylpropoxy}carbostyril | 0.9 g | CN(C(=O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C)C1C(CCCC1)C | C22H30N2O3
